US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(5-methylfuran-2-yl)isoxazole-3-carboxamide was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (150 mg, 0.575 mmol) and 5-(5-methyl-furan-2-yl)-isoxazole-3-carboxylic acid (111 mg, 0.575 mmol). The product was purified by Flash-chromatography. Yield 41.5%. 1H-NMR (400 MHz; MeOD): δ 1.28 (d, 1H), 2.38 (dd, 3H), 4.27-4.45 (m, 2H), 4.54-4.63 (m, 1H), 6.23-6.26 (m, 1H), 6.66 (s, 1H), 6.77 (d, 1H), 6.91 (td, 1H), 7.71 (d, 1H), 7.75 (dd, 1H), 7.86 (dd, 1H), 8.05 (dd, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.575 mmol, 150 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 5-(5-methyl-furan-2-yl)-isoxazole-3-carboxylic acid | 0.575 mmol, 111 mg | CC1=CC=C(O1)C1=CC(=NO1)C(=O)O | C9H7NO4
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(5-methylfuran-2-yl)isoxazole-3-carboxamide | Yield 41.5% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NOC(=C1)C=1OC(=CC1)C | C22H18ClN5O3
